US04618366
A mixture of thionyl chloride (465 ml) and 2-(3-trifluoromethylphenoxy)nicotinic acid [930 L g; described by F. J. Villani et al, J. Med. Chem. 18, 1 (1975)] was allowed to stand at ambient temperature for 18 hours and was then heated at reflux for 1 hour. Toluene (1 liter) was then added and the solution was evaporated under reduced pressure. The residue thus obtained was dissolved in methylene chloride (3 liters) and treated, with stirring, with triethylamine (453 ml) at ambient temperature. 2,4-Difluoroaniline (422 g) was then added over 1 hour while maintaining the temperature at 10° to 15° C. and the mixture was then heated at reflux for 2 hours. The methylene chloride was removed by distillation and the residue was treated with water (4 liters). A solid of spongy texture was obtained which was filtered off, dried at 50° C. and recrystallised from a mixture of toluene and hexane (2:3; 15 liters), to give N-(2,4-difluorophenyl)-2-(3-trifluoromethylphenoxy)nicotinamide (720 g), m.p. 160°-161° C. as a colourless crystalline solid.

reactant | thionyl chloride | 465 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(3-trifluoromethylphenoxy)nicotinic acid | 930 L | FC(C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C13H8F3NO3
reactant | Toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
reactant | 2,4-Difluoroaniline | 422 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | methylene chloride | 3 liters | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 453 ml | C(C)N(CC)CC | C6H15N
product | N-(2,4-difluorophenyl)-2-(3-trifluoromethylphenoxy)nicotinamide | 720 g | FC1=C(C=CC(=C1)F)NC(C1=C(N=CC=C1)OC1=CC(=CC=C1)C(F)(F)F)=O | C19H11F5N2O2
